US09328067B2
methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]phenyl}sulfanyl)methyl]benzoate
Following General Procedure B, the title compound (803 mg, 74%) was prepared from methyl 2-(((2-aminophenyl)thio)methyl)benzoate (652 mg, 2.39 mmol) and benzofuran-2-sulfonyl chloride (816 mg, 3.78 mmol) in pyridine (10 ml).

reactant | methyl 2-(((2-aminophenyl)thio)methyl)benzoate | 2.39 mmol, 652 mg | NC1=C(C=CC=C1)SCC1=C(C(=O)OC)C=CC=C1 | C15H15NO2S
reactant | benzofuran-2-sulfonyl chloride | 3.78 mmol, 816 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]phenyl}sulfanyl)methyl]benzoate | 803 mg, 74% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC=C2)SCC2=C(C(=O)OC)C=CC=C2 | C23H19NO5S2
